US06518434B2
(d) Ethyl 2-[(4R)-4-cyclohexyl-2,5-dioxo-1,3-oxazolidin-3-yl]acetate
Phosgene (28.9 kg, 291.9 mol) was added to (2R)-2-cyclohexyl-2-[(2-ethoxy-2-oxoethyl) amino]ethanoic acid (44.2 kg, 182 mol, obtained analogously to the method described in step (c) (Alternative A) above) in tetrahydrofuran (340 kg) at 40° C. over one hour. The reaction was deemed to be complete after a further hour. The mixture was concentrated at reduced pressure. The residue was diluted with tetrahydrofuran (272.6 kg) and the pH was adjusted at 0° C. to 6.5 with N-methylmorpholine (15.3 kg). The reaction was continued for a further 45 minutes. HCI/dioxane (0.34 kg) was then added and the residue was filtered through Celite®. The filter cake was washed twice with tetrahydrofuran. The combined filtrates were concentrated at reduced pressure at 20° C. To the residue was added heptane (250 kg), and the mixture was concentrated again. To the resultant residue further heptane (81 kg) was added. The temperature was adjusted to 0° C. and the mixture was allowed to crystallise for five hours. The crystals were filtered, washed (3×30 kg heptane) and dried (low pressure, 20° C.), to yield 46 kg (95%) of the sub-title compound.

reactant | Phosgene | 291.9 mol, 28.9 kg | C(=O)(Cl)Cl | CCl2O
reactant | (2R)-2-cyclohexyl-2-[(2-ethoxy-2-oxoethyl) amino]ethanoic acid | C1(CCCCC1)[C@H](C(=O)O)NCC(=O)OCC | C12H21NO4
solvent | tetrahydrofuran | 340 kg | O1CCCC1 | C4H8O
product | Ethyl 2-[(4R)-4-cyclohexyl-2,5-dioxo-1,3-oxazolidin-3-yl]acetate | 46 kg, 95% | C1(CCCCC1)[C@H]1N(C(OC1=O)=O)CC(=O)OCC | C13H19NO5
